US05186717
a) Preparation of 2,6-dinitro-4-methyl-N-butylaniline
0.05 mol (10.8 g) of 2,6-dinitro-4-methylchlorobenzene is added gradually, in the course of 10 minutes, whilst stirring, to 25 ml of butylamine, the reaction medium being cooled as necessary so as not to exceed 50° C. When the addition has ended, stirring is maintained for 5 minutes and the reaction medium is then poured into 100 ml of iced water. The expected product precipitates and is filtered off, washed with water and recrystallised from ethanol. After drying in vacuo, it melts at 52° C.

reactant | 2,6-dinitro-4-methylchlorobenzene | 0.05 mol, 10.8 g | [N+](=O)([O-])C1=C(C(=CC(=C1)C)[N+](=O)[O-])Cl | C7H5ClN2O4
reactant | butylamine | 25 ml | C(CCC)N | C4H11N
solvent | water | 100 ml | O | H2O
product | 2,6-dinitro-4-methyl-N-butylaniline | [N+](=O)([O-])C1=C(NCCCC)C(=CC(=C1)C)[N+](=O)[O-] | C11H15N3O4
